US06610518B2
Preparation of tert-butyl 3-[2-(acetoxy)ethoxy]-5-amino-4-isoxazolecarboxylate
To a stirring solution of tert-butyl 5-amino-3-(2-hydroxyethoxy)-4-isoxazolecarboxylate (R. Neidlein, J.Heterocyclic Chem., 1989, 26,1335) (5.60 g) and triethylamine (3.36 ml) in tetrahydrofuran (50 ml) at room temperature was added dimethylaminopyridine (280 mg) followed by acetic anhydride (2.81 g). The reaction was stirred for 2 hours at room temperature. The solvent was removed in vacuo to yield the crude material (6.0 g). The crude material was purified using the Biotage™ Flash 40i System (silica, 90 g), eluting with ethyl acetate:hexane (1:1) to yield the product as an off white solid (5.0 g)

reactant | tert-butyl 5-amino-3-(2-hydroxyethoxy)-4-isoxazolecarboxylate | 5.60 g | NC1=C(C(=NO1)OCCO)C(=O)OC(C)(C)C | C10H16N2O5
reactant | triethylamine | 3.36 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 280 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | acetic anhydride | 2.81 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | tert-butyl 3-[2-(acetoxy)ethoxy]-5-amino-4-isoxazolecarboxylate | 5.0 g | C(C)(=O)OCCOC1=NOC(=C1C(=O)OC(C)(C)C)N | C12H18N2O6
